US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and isonicotinoyl chloride, there is obtained ethyl N-(isonicotinoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate, m.p. 120°-122° C.;

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | isonicotinoyl chloride | C(C1=CC=NC=C1)(=O)Cl | C6H4ClNO
product | ethyl N-(isonicotinoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C(C1=CC=NC=C1)(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C23H21N3O2
